US07238714B2
Step 1. 5-Cyano-2-(3-fluorophenoxy)benzoic acid
The title compound was prepared according to the procedure described in step 1 and 2 of Example 67 from methyl 5-cyano-2-fluorobenzoate and 3-fluorophenol: 1H-NMR (CDCl3) δ 8.36 (1H, s), 7.73 (1H, m), 7.39 (1H, m), 7.00–6.78 (4H, m).

reactant | methyl 5-cyano-2-fluorobenzoate | C(#N)C=1C=CC(=C(C(=O)OC)C1)F | C9H6FNO2
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
product | 5-Cyano-2-(3-fluorophenoxy)benzoic acid | C(#N)C=1C=CC(=C(C(=O)O)C1)OC1=CC(=CC=C1)F | C14H8FNO3
